US04236004
7,8-dihydro-5-hydroxy-8-methyl-7-oxo-2-(1-pyrrolidinyl)pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester
A stirred mixture of 3.27 g. (0.01 mole) of 7,8-dihydro-5-hydroxy-8-methyl-2-(methylsulfonyl)-7-oxo-pyrido[2,3-d]-pyrimidine-6-carboxylic acid ethyl ester and 0.71 g. (0.01 mole) of pyrrolidine in 50 ml. of ethanol was heated under reflux for 1 hour. The mixture was cooled and was filtered. The filter cake was recrystallized twice from ethyl acetate to affords 1.1 g. of title product--m.p. 174°-177° C.

reactant | 7,8-dihydro-5-hydroxy-8-methyl-2-(methylsulfonyl)-7-oxo-pyrido[2,3-d]-pyrimidine-6-carboxylic acid ethyl ester | 0.01 mole | C(C)OC(=O)C1=C(C2=C(N=C(N=C2)S(=O)(=O)C)N(C1=O)C)O | C12H13N3O6S
reactant | pyrrolidine | 0.01 mole | N1CCCC1 | C4H9N
solvent | ethanol | C(C)O | C2H6O
product | 7,8-dihydro-5-hydroxy-8-methyl-7-oxo-2-(1-pyrrolidinyl)pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(C2=C(N=C(N=C2)N2CCCC2)N(C1=O)C)O | C15H18N4O4
